US08865713B2
Step E: 1-(8H-imidazo[4′,5′:3,4]benzo[2,1-d]thiazol-7-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
The hydrochloride salt of 1-[N-(4-bromo-benzothiazol-5-yl)carbamimidoyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.128 g, 0.297 mmol), 1,10-phenanthroline (10.7 mg, 59.4 μmol), cesium carbonate (0.290 g, 0.891 mmol), and DME (5.5 mL) were combined in a sealable microwave tube. The tube was sparged with dry nitrogen and copper (I) iodide (5.70 mg, 29.7 μmol) was added. The reaction mixture was further sparged and the tube was sealed and heated at 80° C. for 1.75 h. The reaction mixture was partitioned between 1M aq. HCl (15 mL) and EtOAc (25 mL). The aqueous layer was further extracted with EtOAc (2×20 mL) and the combined organic layers were washed with brine (10 mL), dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (10-60% EtOAc/hexanes, dry-loaded), the clean fractions were concentrated and the residue triturated with diethyl ether to yield the titled compound (19.5 mg, 21% yield). MS (ESI/CI): mass calcd. for C14H11N6O2S, 313.1; m/z found, 314.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.75 (s, 1H), 9.45 (s, 1H), 9.05 (s, 1H), 8.37 (s, 1H), 8.00 (d, J=8.6 Hz, 1H), 7.65 (d, J=6.0 Hz, 1H), 4.31 (q, J=7.0 Hz, 2H), 1.34 (t, J=7.1 Hz, 3H).

reactant | 1-[N-(4-bromo-benzothiazol-5-yl)carbamimidoyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.297 mmol, 0.128 g | C(C)OC(=O)C=1C=NN(C1)C(NC=1C=CC2=C(N=CS2)C1Br)=N | C14H12BrN5O2S
reactant | 1,10-phenanthroline | 59.4 μmol, 10.7 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 0.891 mmol, 0.290 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper (I) iodide | 29.7 μmol, 5.70 mg | [Cu]I
solvent | DME | 5.5 mL | COCCOC | C4H10O2
product | 1-(8H-imidazo[4′,5′:3,4]benzo[2,1-d]thiazol-7-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 19.5 mg, 21% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(C=3N=CSC3C=C2)N1 | C14H11N5O2S
